US06552068B1
A solution of potassium hydroxide (370 g, 6.6 mol) in water (500 ml) was added to a solution of diethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate (105.3 g, 0.33 mol) in ethanol (1000 ml), followed by stirring for 16 hours at 60° C. The reaction mixture was adjusted to pH 5 by slowly adding 1N hydrochloric acid dropwise, and then extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was dissolved in dimethyl sulfoxide (500 ml) and stirred for 18 hours at 170° C. Water was added to the reaction mixture, which was then extracted three times with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was dissolved in anhydrous tetrahydrofuran (300 ml) and cooled to −30° C. Borane-methyl sulfide complex (10 M in THF, 55 ml, 0.55 mol) was slowly added dropwise to the solution, followed by stirring for 3 hours at room temperature. After treatment with methanol at 0° C., water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20) to give 6,6,7,7,7-pentafluoroheptan-1-ol (39 g, Yield 57%).

reactant | potassium hydroxide | 6.6 mol, 370 g | [OH-].[K+]
reactant | diethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate | 0.33 mol, 105.3 g | FC(CCCC(C(=O)OCC)C(=O)OCC)(C(F)(F)F)F | C12H17F5O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Borane methyl sulfide | 0.55 mol, 10 M, 55 ml | B.CSC
solvent | water | 500 ml | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 6,6,7,7,7-pentafluoroheptan-1-ol | 39 g, Yield 57% | FC(CCCCCO)(C(F)(F)F)F | C7H11F5O
